US04594365
Preparation of Tris(4-Methyl- 2-Pentoxy)Silyl Acrylate
0.23 moles of tris(4-methyl-2-pentoxy)silanol, 0.23 moles of triethylamine, 0.02 gms. of methyl hydroquinone as polymerization inhibitor and 82 cc of toluene were placed in a three necked flask equipped with a stirrer, addition funnel, a thermometer and a condenser. A solution of 0.23 moles of acryloyl chloride in 23 cc of toluene was added slowly to the reaction mixture at 3°-5° C. At the end of the addition, the mass is allowed to stir for 1/2 hour at 5° C. The solid triethylamine hydrochloride was filtered and the solvent was distilled under vacuum. The residual crude product was distilled (bp 148°-162° C./3 mm/Hg) to give 41 gms. of product (G.C. purity 80%).

reactant | tris(4-methyl-2-pentoxy)silanol | 0.23 moles | CC(CC(C)O[Si](O)(OC(C)CC(C)C)OC(C)CC(C)C)C | C18H40O4Si
reactant | triethylamine | 0.23 moles | C(C)N(CC)CC | C6H15N
reactant | methyl hydroquinone | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | acryloyl chloride | 0.23 moles | C(C=C)(=O)Cl | C3H3ClO
solvent | toluene | 23 cc | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 82 cc | C1(=CC=CC=C1)C | C7H8
product | Tris(4-Methyl- 2-Pentoxy)Silyl Acrylate | C(C=C)(=O)O[Si](OC(C)CC(C)C)(OC(C)CC(C)C)OC(C)CC(C)C | C21H42O5Si
